US08748624B2
STEP C: ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate
Neat CBr4 (4.6 g, 13.7 mmol) was added to a 0° C., DCM solution (66 mL) of ethyl 3-(5-(4,5-difluoro-2-(hydroxymethyl)phenyl)picolinamido)propanoate (4.2 g, 11.4 mmol) and PPh3 (3.6 g, 13.7 mmol), the cold bath was removed, and the resulting mixture was allowed to warm to room temperature. After 2 h the resulting mixture was diluted with diethyl ether, filtered through a pad of CELITE, concentrated and purified via column chromatography to yield the title compound.

reactant | CBr4 | 13.7 mmol, 4.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | DCM | 66 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl 3-(5-(4,5-difluoro-2-(hydroxymethyl)phenyl)picolinamido)propanoate | 11.4 mmol, 4.2 g | FC1=CC(=C(C=C1F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CO | C18H18F2N2O4
reactant | PPh3 | 13.7 mmol, 3.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate | BrCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H17BrF2N2O3
